US08022218B2
(a). 5-Chloromethyl-1,3-dimethyl-1H-pyrazole
The title compound was prepared analogously to example 48b starting from (2,5-dimethyl-2H-pyrazol-3-yl)-methanol (778 mg) and thionyl chloride (2.35 ml). Yield: 900 mg.

reactant | (2,5-dimethyl-2H-pyrazol-3-yl)-methanol | 778 mg | CN1N=C(C=C1CO)C | C6H10N2O
reactant | thionyl chloride | 2.35 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloromethyl-1,3-dimethyl-1H-pyrazole | ClCC1=CC(=NN1C)C | C6H9ClN2
